US05688807
To a stirred, cooled (0° C.) solution of iodovanillin (10.0 g, 35.96 mmol.) in dimethylformamide (50 mL) was added anhydrous potassium carbonate (20.0 g, 143.86 mmol.) followed by iodomethane (3.11 mL, 50.0 mmol.). The mixture was allowed to warm to ambient temperature and stir for 14 H. The mixture was poured into diethyl ether (500 mL) and washed with water (3×150 mL). The organic phase was dried over MgSO4 and concentrated under reduced pressure to afford 3-iodo-4,5-dimethoxybenzaldehyde (9.5 g) as a yellow oil which solidified upon standing and was used without further purification.

reactant | iodovanillin | 35.96 mmol, 10.0 g | IC(=O)C1=CC(OC)=C(O)C=C1 | C8H7IO3
reactant | potassium carbonate | 143.86 mmol, 20.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | iodomethane | 50.0 mmol, 3.11 mL | IC | CH3I
reactant | diethyl ether | 500 mL | C(C)OCC | C4H10O
solvent | dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
product | 3-iodo-4,5-dimethoxybenzaldehyde | 9.5 g | IC=1C=C(C=O)C=C(C1OC)OC | C9H9IO3
